US08859546B2
5-bromo-3-fluoropicolinonitrile
A solution of 5-bromo-3-nitropicolinonitrile (6.84 g, 30 mmol) in dimethylsulfoxide was cooled to −25° C. and treated with 1M tetra-n-butylammonium fluoride in tetrahydrofuran (60 mL, 60 mmol). The reaction mixture was stirred at ambient temperature for 1 hour. It was quenched with water and extracted with ethyl acetate. The combined organic layers were dried (Na2SO4), filtered and concentrated to provide crude title compound.

reactant | 5-bromo-3-nitropicolinonitrile | 30 mmol, 6.84 g | BrC=1C=C(C(=NC1)C#N)[N+](=O)[O-] | C6H2BrN3O2
reactant | tetra-n-butylammonium fluoride | 1M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 60 mmol, 60 mL | O1CCCC1 | C4H8O
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 5-bromo-3-fluoropicolinonitrile | BrC=1C=C(C(=NC1)C#N)F | C6H2BrFN2
